US06207678B1
3(S)-(3,4-Dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butyl 1,2,3,4-tetrahydro-5-naphthoate (1.38 g) (see Preparation 101) was dissolved in methanol (40 ml), 1N aqueous sodium hydroxide solution (5 ml) added and the resulting mixture stirred at room temperature overnight. The methanol was then removed under reduced pressure and the residue partitioned between ethyl acetate and water. The organic phase was separated, washed sequentially with saturated aqueous sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give 3(S)-(3,4-dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butan-1-ol (0.82 g) as a gum.

reactant | 3(S)-(3,4-Dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butyl 1,2,3,4-tetrahydro-5-naphthoate | 1.38 g | C1CCCC=2C(=CC=CC12)C(=O)OCC[C@H](CN1C(=NC=C1)C(=O)C=1C=2CCCCC2C=CC1)C1=CC(=C(C=C1)Cl)Cl | C35H34Cl2N2O3
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 3(S)-(3,4-dichlorophenyl)-4-[2-(1,2,3,4-tetrahydro-5-naphthoyl)imidazol-1-yl]butan-1-ol | 0.82 g | ClC=1C=C(C=CC1Cl)[C@H](CCO)CN1C(=NC=C1)C(=O)C=1C=2CCCCC2C=CC1 | C24H24Cl2N2O2
